US07635684B2
4-({4-[2-(Benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one
To a solution of 4-{[4-(2-aminoethyl)-2-methylphenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one (0.3 g) in tetrahydrofuran (5 mL) was added N-(benzyloxycarbonyloxy)succinimide (0.33 g), and the mixture was stirred at room temperature overnight. The reaction mixture was poured into water, and the resulting mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium hydrogen carbonate solution twice, water and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give the title compound (0.34 g).

reactant | 4-{[4-(2-aminoethyl)-2-methylphenyl]methyl}-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 0.3 g | NCCC1=CC(=C(C=C1)CC=1C(NNC1C(C)C)=O)C | C16H23N3O
reactant | N-(benzyloxycarbonyloxy)succinimide | 0.33 g | C(C1=CC=CC=C1)OC(=O)ON1C(CCC1=O)=O | C12H11NO5
reactant | water | O | H2O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4-({4-[2-(Benzyloxycarbonylamino)ethyl]-2-methylphenyl}-methyl)-1,2-dihydro-5-isopropyl-3H-pyrazol-3-one | 0.34 g | C(C1=CC=CC=C1)OC(=O)NCCC1=CC(=C(C=C1)CC=1C(NNC1C(C)C)=O)C | C24H29N3O3
